US07572820B2
4-Chloro-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-2-methyl-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-methyl-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole: 1H NMR (400 MHz, DMSO-d6) δ 7.94 (d, J=1.1 Hz, 1H), 7.81 (d, J=8.7 Hz, 1H), 7.75-7.71 (m, 2H), 7.69-7.63 (m, 1H), 7.58 (dd, J=8.7, 1.5 Hz, 1H), 5.83 (s, 2H), 2.47 (s, 3H); MS (ES) m/z 385 (M+1).

reactant | 4-chloro-2-methyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C | C10H7ClN2
reactant | 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC(=C1)F)F | C9H5ClF2N2O
product | 4-Chloro-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-2-methyl-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C1=CC(=CC(=C1)F)F)C | C19H11ClF2N4O
